US07135600B2
iii) (3-Iodophenyl)methanesulfonamide
A stirred solution of (3-iodophenyl)methanesulfonyl chloride (1 g) in TKF (20 ml) was treated with 0.88 ammonia (25 ml) at room temperature for 30 min. The solvent was removed under reduced pressure and the residue was triturated in ether to give the title compound (0.35 g).

reactant | (3-iodophenyl)methanesulfonyl chloride | 1 g | IC=1C=C(C=CC1)CS(=O)(=O)Cl | C7H6ClIO2S
reactant | ammonia | 25 ml | N | H3N
product | (3-Iodophenyl)methanesulfonamide | 0.35 g | IC=1C=C(C=CC1)CS(=O)(=O)N | C7H8INO2S
